Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Beconase / Sulfa (Sulfonamide Antibiotics) / Vancomycin 
Analogues / Penicillins / Versed / Cetacaine / shrimp / melons / 
Salsalate / Cyclobenzaprine / tramadol / Nucynta / nadolol / 
Flexeril / Zoloft / NSAIDS (Non-Steroidal Anti-Inflammatory 
Drug) / Lyrica / Percocet / metaxazone / Latex / Dilaudid
 
Attending: ___
 
Chief Complaint:
Cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ y/o female with hx of asthma, HTN, 
hypothyroidism who presented to the ED with 2 weeks of cough 
(and resolved fever). 

Patient states she had fever and myalgias 2 weeks ago that 
resolved. However she is now having persistent cough with 
hoarseness and dry cough, despite being treated with a z-pack 
___ with plan for 6 day treatment). Patient hadn't used 
albuterol ___ the past ___ days and stated this feels different 
than asthma. She reports not eating as much. 
No chest pain, DVT, hx of cancer or hemoptysis. ___ had ED visit 
on ___ ___hest without contrast without acute findings 
("Mild diffuse bronchial wall thickening likely relates to 
underlying reactive airways disease"). 
Her pulmonologist recommended ED visit for further workup.

___ the ED, initial vital signs were: 98.4  85  121/48 18 99% RA 
- Exam notable for: 
- Labs were notable for Na 135, K 5.3, HCO3 21, Creat 0.9, 
Lactate 1.1, UA negative, Flu negative, WBC 13.4, H/H 12.0/37.3, 
Plt 575 
- Studies performed include Cxray which showed Increased opacity 
over the anterior, lower thoracic spine which is new from the 
prior examination and concerning for pneumonia
- Patient was given ceftriaxone 1g, Albuterol and Ipratropium, 
and 1L NS.
- Vitals on transfer:  98.1 76 112/68 16 99% RA 

Upon arrival to the floor, the patient  
 
Review of Systems:  
(+) per HPI 
 
Past Medical History:
- Asthma
- Lumbar spinal stenosis
- Hypertension
- GERD
- Hypothyroidism
- Osteopenia
- Basal cell carcinoma
- Crush injury of lower leg
- Thoracic outlet syndrome ___
- Thyroid neomplasm (removed ___
 
Social History:
___
Family History:
Mother - EMPHYSEMA   
       - SMOKING   
       - LIVER CANCER
      
Father - DEPRESSION/SUICIDE 

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
Vitals: 97.7, 123/71, 80, 18, 96% RA 
GENERAL: AOx3, NAD
HEENT: PERRL. Sclera anicteric. Moist mucous membranes.
NECK: Supple.  No LAD. No JVD.
CARDIAC: RRR, no murmurs/rubs/gallops. 
LUNGS: Diffuse wheezes. No crackles or ronchi. 
BACK: Skin clear. No CVA tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation ___ all four quadrants. Tympanic to percussion.  
No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal 
sensation.

DISCHARGE PHYSICAL EXAM:
========================
Vitals: Afeb, 100-120/60-70, 80, 18, 95% RA
GENERAL: AOx3, NAD
HEENT: PERRL. Sclera anicteric. Moist mucous membranes.
NECK: Supple.  No LAD. No JVD.
CARDIAC: RRR, no murmurs/rubs/gallops. 
LUNGS: Good air entry, minimal scattered wheezes. No crackles or 
ronchi. 
BACK: Skin clear. No CVA tenderness. 
ABDOMEN:  Normal bowels sounds, non distended, non-tender to 
deep palpation ___ all four quadrants. Tympanic to percussion.  
No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally.
NEUROLOGIC: CN2-12 intact.  ___ strength througout.  Normal 
sensation.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:45AM   PLT SMR-HIGH PLT COUNT-575*#
___ 11:45AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL BURR-OCCASIONAL
___ 11:45AM   NEUTS-73* BANDS-2 ___ MONOS-3* EOS-3 
BASOS-0 ___ MYELOS-0 AbsNeut-10.05* AbsLymp-2.55 
AbsMono-0.40 AbsEos-0.40 AbsBaso-0.00*
___ 11:45AM   WBC-13.4*# RBC-3.88* HGB-12.0 HCT-37.3 MCV-96 
MCH-30.9 MCHC-32.2 RDW-12.6 RDWSD-43.9
___ 11:45AM   estGFR-Using this
___ 11:45AM   GLUCOSE-85 UREA N-15 CREAT-0.9 SODIUM-135 
POTASSIUM-5.3* CHLORIDE-100 TOTAL CO2-21* ANION GAP-19
___ 11:56AM   LACTATE-1.1
___ 01:38PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 04:14PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 04:14PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 04:14PM URINE  UHOLD-HOLD
___ 04:14PM URINE  HOURS-RANDOM

DISCHARGE/PERTINENT LABS:
=========================
___ 07:25AM BLOOD WBC-9.7 RBC-3.08* Hgb-10.0* Hct-29.5* 
MCV-96 MCH-32.5* MCHC-33.9 RDW-12.6 RDWSD-44.1 Plt ___
___ 07:25AM BLOOD Neuts-78* Bands-0 Lymphs-13* Monos-8 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-7.57* 
AbsLymp-1.26 AbsMono-0.78 AbsEos-0.00* AbsBaso-0.00*
___ 07:25AM BLOOD Glucose-96 UreaN-10 Creat-0.8 Na-136 
K-4.4 Cl-103 HCO3-20* AnGap-17
___ 07:25AM BLOOD ALT-19 AST-23 AlkPhos-74 TotBili-0.2
___ 07:25AM BLOOD Calcium-8.7 Phos-3.1 Mg-1.9

MICROBIOLOGY:
=============
___ 12:39 pm SPUTUM      Source: Expectorated. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      <10 PMNs and <10 epithelial cells/100X field. 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      QUALITY OF SPECIMEN CANNOT BE ASSESSED. 

   RESPIRATORY CULTURE (Final ___: 
      Commensal Respiratory Flora Absent. 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------<=0.25 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

___ 1:38 pm Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information..

IMAGING:
========
___  CHEST (PA & LAT)
Increased opacity best appreciated on the lateral view 
projecting over the
anterior, lower thoracic spine is new from the prior examination 
and
concerning for pneumonia.
 
 
Brief Hospital Course:
___ y/o female with hx of asthma, HTN, hypothyroidism who 
presented to the ED with 2 weeks of cough following a flu-like 
illness and with worsening shortness of breath on exertion 
despite a course of azithromycin, with CXR suggestive of 
underlying PNA.

# COMMUNITY-ACQUIRED PNEUMONIA:
Patient reports 2 weeks of worsening cough, sore throat, and 
malaise following a flu-like illness. Patient was prescribed 
Azithromycin as an out-patient but did not notice any 
improvement so she was instructed to present to the ED. Chest 
X-ray was concerning for PNA with evidence of leukocytosis and 
left shift. Vitals within normal limits, patient afebrile. 
Patient was started on levofloxacin 750mg PO with plan for a 
5-day course (___). Sputum/blood cultures pending at 
the time of discharge. Ambulatory saturation at 96% RA.

# ASTHMA:
On Fluticasone Propionate 110mcg 2 PUFF BID, and Albuterol 
Inhaler 2 PUFF Q6H:PRN at hoime. Stable during this admission, 
but given increased frequency of infections and residual 
symptoms despite current regimen,  she was started on Advair HFA 
(salmeterol 50/fluticasone 250) based on discussion with primary 
pulmonologist. Patient was maintained on albuterol nebs and 
Flovent while ___. No acute bronchospastic episodes.

# Anemia:
Drop ___ Hgb from 12 to 10 on the day of discharge. Patient was 
HD stable and had no evidence or stigmata of bleeding. Given 
that all cell lines appeared to have dropped, this seemed 
consistent with hemodilution. 

# HTN:
- Atenolol 25 mg PO daily
- Lisinopril 10 mg PO daily

# GERD:
- Omeprazole 40 mg PO daily

# HYPOTHYROIDISM:
- Levothyroxine 125 mcg PO daily

# INSOMNIA:
- Lorazepam 1mg PO QHS PRN

# POST-MENOPAUSAL HORMONE THERAPY:
- Estradiol 0.5 mg PO DAILY 

TRANSITIONAL ISSUES:
====================
# Patient was started on levofloxacin 750mg Q24h for a community 
acquired pneumonia. She needs to complete a 5-day course (last 
day = ___.
# Patient was started on Advair HFA (salmeterol 
50mcg/fluticasone 250mcg) 2 puffs BID.
# Patient should be set-up with her outpatient pulmonologist 
within ___ weeks of discharge.

# Emergency Contact/HCP:
- Name of health care proxy: ___ 
- Relationship: friend 
- Phone number: ___ 
- Cell phone: ___
# Code Status: Full 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Gabapentin 300 mg PO QID 
3. LORazepam ___ mg PO QHS:PRN insomnia 
4. Atenolol 25 mg PO DAILY 
5. Omeprazole 40 mg PO BID 
6. Celecoxib 100 mg oral BID 
7. Loratadine 10 mg PO DAILY 
8. Levothyroxine Sodium 125 mcg PO DAILY 
9. Estradiol 0.5 mg PO DAILY 
10. Fluticasone Propionate 110mcg 2 PUFF IH BID 
11. Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN Nasal 
congestion 
12. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
13. proGESTerone micronized 100 mg oral DAILY 

 
Discharge Medications:
1.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
RX *fluticasone-salmeterol [Advair Diskus] 250 mcg-50 mcg/dose 1 
Puff INH twice a day Disp #*1 Disk Refills:*4 
2.  Levofloxacin 750 mg PO Q24H 
RX *levofloxacin 750 mg 1 tablet(s) by mouth Daily Disp #*4 
Tablet Refills:*0 
3.  Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing  
4.  Atenolol 25 mg PO DAILY  
5.  Celecoxib 100 mg oral BID  
6.  Estradiol 0.5 mg PO DAILY  
7.  Fluticasone Propionate NASAL 2 SPRY NU DAILY:PRN Nasal 
congestion  
8.  Gabapentin 300 mg PO QID  
9.  Levothyroxine Sodium 125 mcg PO DAILY  
10.  Lisinopril 10 mg PO DAILY  
11.  Loratadine 10 mg PO DAILY  
12.  LORazepam ___ mg PO QHS:PRN insomnia  
13.  Omeprazole 40 mg PO BID  
14.  proGESTerone micronized 100 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Community-Acquired Pneumonia
Asthma

SECONDARY DIAGNOSES:
====================
Hypertension
GERD
Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you had a severe 
cough and your chest x-ray was concerning for a pneumonia. You 
were started on an antibiotic called Levofloxacin which you 
should continue to take for a total of 5-days (last day = 
___. You were also started on a new medication for your 
asthma called Advair to help improve your breathing and prevent 
asthmatic complications.

Wishing you a speedy recovery,
Your ___ Care Team.

 
Followup Instructions:
___